US08012979B2
i) 4-Bromo-2-carboxymethyl-benzoic acid
A solution of 5-bromo-1-indanone (25 g) and diethyl oxalate (27.7 g) in toluene (500 mL) was added to a suspension of sodium methoxide (13.1 g) in toluene (50 mL) at 0° C. The mixture was warmed to room temperature and stirred for 90 minutes. The solvent was removed and the residue suspended in methanol (800 mL). Potassium hydroxide (53.1 g) was added portionwise keeping the temp below 50° C. Hydrogen peroxide solution (30% w/w, 135 mL) was then added keeping the temperature below 64° C., the reaction mixture was then stirred at room temperature for 17 hours. Sodium sulfite (5% aqueous solution) was added and the reaction stirred for 30 minutes. The reaction mixture was filtered and the filtrate was reduced to half volume then washed with 2-methoxy-2-methyl-propane. The aqueous layer was then acidified with hydrochloric acid and extracted into ethyl acetate. The organic phase was dried, filtered and evaporated then triturated with diethyl ether to yield sub-title compound (9.0 g).

reactant | 5-bromo-1-indanone | 25 g | BrC=1C=C2CCC(C2=CC1)=O | C9H7BrO
reactant | diethyl oxalate | 27.7 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium methoxide | 13.1 g | C[O-].[Na+]
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Bromo-2-carboxymethyl-benzoic acid | 9.0 g | BrC1=CC(=C(C(=O)O)C=C1)CC(=O)O | C9H7BrO4
